US08710223B2
Synthesis of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile
A mixture of 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carbonitrile (112 mg, 0.380 mmol, 1 equiv), 4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine (100 mg, 0.456 mmol, 1.2 equiv), and para-toluenesulfonic acid monohydrate (58 mg, 0.304 mmol, 0.8 equiv) in IPA (4 mL) were heated to 80° C. overnight. LCMS indicated desired product plus approximately 18% of 5-fluoro-2-isopropoxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine byproduct. After cooling to ambient temperature, the crude mixture was quenched with 2M NH3/MeOH followed by concentrating to dryness and repeating once. The crude product was purified by flash chromatography and eluted with DCM:2M NH3/MeOH (100:0 to 95:5 using 1% 2M NH3/MeOH increments) to provide the desired product which was recrystallized with DCM/IPA to give the title compound (88 mg, 49%) as a solid.

reactant | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-chloropyrimidine-5-carbonitrile | 0.380 mmol, 112 mg, 1 equiv | CC1(NC(CC(C1)NC1=NC(=NC=C1C#N)Cl)(C)C)C | C14H20ClN5
reactant | 4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)benzenamine | 0.456 mmol, 100 mg, 1.2 equiv | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1)N)F | C10H10FN5
reactant | para-toluenesulfonic acid monohydrate | 0.304 mmol, 58 mg, 0.8 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 5-fluoro-2-isopropoxy-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine | FC=1C(=NC(=NC1)OC(C)C)NC1CC(NC(C1)(C)C)(C)C | C16H27FN4O
solvent | IPA | 4 mL | CC(C)O | C3H8O
product | 4-(2,2,6,6-tetramethylpiperidin-4-ylamino)-2-(4-cyclopropyl-2-fluoro-5-(1H-tetrazol-1-yl)phenylamino)pyrimidine-5-carbonitrile | CC1(NC(CC(C1)NC1=NC(=NC=C1C#N)NC1=C(C=C(C(=C1)N1N=NN=C1)C1CC1)F)(C)C)C | C24H29FN10
